$ Spice netlist generated by v2lvs
$ v2013.3_28.19    Tue Sep 3 16:44:15 PDT 2013

.SUBCKT c880 N1 N8 N13 N17 N26 N29 N36 N42 N51 N55 N59 N68 N72 N73 N74 N75 N80 
+ N85 N86 N87 N88 N89 N90 N91 N96 N101 N106 N111 N116 N121 N126 N130 N135 N138 
+ N143 N146 N149 N152 N153 N156 N159 N165 N171 N177 N183 N189 N195 N201 N207 
+ N210 N219 N228 N237 N246 N255 N259 N260 N261 N267 N268 N388 N389 N390 N391 
+ N418 N419 N420 N421 N422 N423 N446 N447 N448 N449 N450 N767 N768 N850 N863 
+ N864 N865 N866 N874 N878 N879 N880 
XAND3_3 N273 N29 N36 N42 and 
XAND3_4 N276 N1 N26 N51 and 
XAND3_10 N287 N29 N75 N80 and 
XAND3_11 N290 N29 N75 N42 and 
XAND3_12 N291 N29 N36 N80 and 
XAND3_13 N292 N29 N36 N42 and 
XAND3_14 N293 N59 N75 N80 and 
XAND3_15 N294 N59 N75 N42 and 
XAND3_16 N295 N59 N36 N80 and 
XAND3_17 N296 N59 N36 N42 and 
XAND2_18 N297 N85 N86 and 
XAND2_28 N309 N8 N138 and 
XAND2_30 N316 N51 N138 and 
XAND2_31 N317 N17 N138 and 
XAND2_32 N318 N152 N138 and 
XAND2_35 N323 N17 N42 and 
XAND2_44 N332 N210 N91 and 
XAND2_45 N333 N210 N96 and 
XAND2_46 N334 N210 N101 and 
XAND2_47 N335 N210 N106 and 
XAND2_48 N336 N210 N111 and 
XAND2_49 N337 N255 N259 and 
XAND2_50 N338 N210 N116 and 
XAND2_51 N339 N255 N260 and 
XAND2_52 N340 N210 N121 and 
XAND2_53 N341 N255 N267 and 
XAND2_68 N356 N90 N298 and 
XAND2_86 N400 N348 N73 and 
XAND2_92 N406 N357 N360 and 
XAND2_95 N409 N363 N366 and 
XAND2_99 N413 N376 N379 and 
XAND2_102 N416 N382 N385 and 
XAND2_103 N417 N210 N369 and 
XAND2_111 N425 N404 N405 and 
XAND2_112 N426 N407 N408 and 
XAND3_113 N427 N319 N393 N55 and 
XAND3_114 N432 N393 N17 N287 and 
XAND2_118 N444 N411 N412 and 
XAND2_119 N445 N414 N415 and 
XAND2_129 N475 N143 N427 and 
XAND2_130 N476 N310 N432 and 
XAND2_131 N477 N146 N427 and 
XAND2_132 N478 N310 N432 and 
XAND2_133 N479 N149 N427 and 
XAND2_134 N480 N310 N432 and 
XAND2_135 N481 N153 N427 and 
XAND2_136 N482 N310 N432 and 
XAND2_148 N502 N91 N466 and 
XAND2_150 N504 N96 N466 and 
XAND2_152 N506 N101 N466 and 
XAND2_154 N508 N106 N466 and 
XAND2_156 N510 N143 N483 and 
XAND2_157 N511 N111 N466 and 
XAND2_158 N512 N146 N483 and 
XAND2_159 N513 N116 N466 and 
XAND2_160 N514 N149 N483 and 
XAND2_161 N515 N121 N466 and 
XAND2_162 N516 N153 N483 and 
XAND2_163 N517 N126 N466 and 
XAND2_168 N522 N451 N159 and 
XAND2_169 N523 N451 N165 and 
XAND2_170 N524 N451 N171 and 
XAND2_171 N525 N451 N177 and 
XAND2_172 N526 N451 N183 and 
XAND2_190 N552 N530 N533 and 
XAND2_201 N587 N544 N547 and 
XAND2_202 N588 N550 N551 and 
XAND2_203 N589 N585 N586 and 
XAND2_206 N596 N246 N553 and 
XAND2_209 N605 N246 N557 and 
XAND2_212 N615 N246 N561 and 
XAND2_215 N624 N246 N565 and 
XAND2_218 N631 N246 N569 and 
XAND2_221 N640 N246 N573 and 
XAND2_224 N650 N246 N577 and 
XAND2_227 N659 N246 N581 and 
XAND2_231 N665 N593 N590 and 
XAND2_234 N673 N600 N597 and 
XAND2_237 N682 N609 N606 and 
XAND2_240 N692 N619 N616 and 
XAND2_243 N700 N628 N625 and 
XAND2_246 N708 N635 N632 and 
XAND2_249 N717 N644 N641 and 
XAND2_252 N727 N654 N651 and 
XAND2_258 N736 N228 N665 and 
XAND2_259 N737 N237 N662 and 
XAND2_261 N739 N228 N673 and 
XAND2_262 N740 N237 N670 and 
XAND2_264 N742 N228 N682 and 
XAND2_265 N743 N237 N678 and 
XAND2_267 N745 N228 N692 and 
XAND2_268 N746 N237 N687 and 
XAND2_270 N748 N228 N700 and 
XAND2_271 N749 N237 N697 and 
XAND2_273 N751 N228 N708 and 
XAND2_274 N752 N237 N705 and 
XAND2_276 N754 N228 N717 and 
XAND2_277 N755 N237 N713 and 
XAND2_280 N758 N727 N261 and 
XAND2_281 N759 N228 N727 and 
XAND2_282 N760 N237 N722 and 
XAND2_304 N789 N700 N773 and 
XAND2_306 N791 N708 N778 and 
XAND2_308 N793 N717 N782 and 
XAND2_309 N794 N219 N786 and 
XAND2_317 N807 N692 N796 and 
XAND2_318 N808 N219 N802 and 
XAND2_319 N809 N219 N803 and 
XAND2_320 N810 N219 N804 and 
XAND2_334 N831 N665 N815 and 
XAND2_336 N833 N673 N819 and 
XAND2_338 N835 N682 N822 and 
XAND2_339 N836 N219 N825 and 
XAND2_352 N849 N735 N841 and 
XAND2_354 N851 N219 N842 and 
XAND2_355 N852 N219 N843 and 
XAND2_356 N853 N219 N844 and 
XNAND4_1 N269 N1 N8 N13 N17 nand 
XNAND4_2 N270 N1 N26 N13 N17 nand 
XNAND4_5 N279 N1 N8 N51 N17 nand 
XNAND4_6 N280 N1 N8 N13 N55 nand 
XNAND4_7 N284 N59 N42 N68 N72 nand 
XNAND2_8 N285 N29 N68 nand 
XNAND3_9 N286 N59 N68 N74 nand 
XNAND2_20 N301 N91 N96 nand 
XNAND2_22 N303 N101 N106 nand 
XNAND2_24 N305 N111 N116 nand 
XNAND2_26 N307 N121 N126 nand 
XNAND2_33 N319 N59 N156 nand 
XNAND2_36 N324 N159 N165 nand 
XNAND2_38 N326 N171 N177 nand 
XNAND2_40 N328 N183 N189 nand 
XNAND2_42 N330 N195 N201 nand 
XNAND2_67 N355 N89 N298 nand 
XNAND2_69 N357 N301 N302 nand 
XNAND2_70 N360 N303 N304 nand 
XNAND2_71 N363 N305 N306 nand 
XNAND2_72 N366 N307 N308 nand 
XNAND2_75 N376 N324 N325 nand 
XNAND2_76 N379 N326 N327 nand 
XNAND2_77 N382 N328 N329 nand 
XNAND2_78 N385 N330 N331 nand 
XNAND2_96 N410 N347 N352 nand 
XNAND3_115 N437 N393 N287 N55 nand 
XNAND4_116 N442 N375 N59 N156 N393 nand 
XNAND3_117 N443 N393 N319 N17 nand 
XNAND2_128 N466 N442 N410 nand 
XNAND2_137 N483 N443 N1 nand 
XNAND2_144 N498 N130 N460 nand 
XNAND2_146 N500 N463 N135 nand 
XNAND2_164 N518 N130 N492 nand 
XNAND2_166 N520 N495 N207 nand 
XNAND2_173 N527 N451 N189 nand 
XNAND2_174 N528 N451 N195 nand 
XNAND2_175 N529 N451 N201 nand 
XNAND2_176 N530 N498 N499 nand 
XNAND2_177 N533 N500 N501 nand 
XNAND2_186 N544 N518 N519 nand 
XNAND2_187 N547 N520 N521 nand 
XNAND2_191 N553 N536 N503 nand 
XNAND2_192 N557 N537 N505 nand 
XNAND2_193 N561 N538 N507 nand 
XNAND2_194 N565 N539 N509 nand 
XNAND2_195 N569 N488 N540 nand 
XNAND2_196 N573 N489 N541 nand 
XNAND2_197 N577 N490 N542 nand 
XNAND2_198 N581 N491 N543 nand 
XNAND2_204 N590 N553 N159 nand 
XNAND2_207 N597 N557 N165 nand 
XNAND2_210 N606 N561 N171 nand 
XNAND2_213 N616 N565 N177 nand 
XNAND2_216 N625 N569 N183 nand 
XNAND2_219 N632 N573 N189 nand 
XNAND2_222 N641 N577 N195 nand 
XNAND2_225 N651 N581 N201 nand 
XNAND2_254 N732 N654 N261 nand 
XNAND3_255 N733 N644 N654 N261 nand 
XNAND4_256 N734 N635 N644 N654 N261 nand 
XNAND2_283 N761 N644 N722 nand 
XNAND2_284 N762 N635 N713 nand 
XNAND3_285 N763 N635 N644 N722 nand 
XNAND2_286 N764 N609 N687 nand 
XNAND2_287 N765 N600 N678 nand 
XNAND3_288 N766 N600 N609 N687 nand 
XNAND4_295 N773 N750 N762 N763 N734 nand 
XNAND3_297 N778 N753 N761 N733 nand 
XNAND2_299 N782 N756 N732 nand 
XNAND2_310 N795 N628 N773 nand 
XNAND2_311 N796 N795 N747 nand 
XNAND4_321 N811 N805 N787 N731 N529 nand 
XNAND2_322 N812 N619 N796 nand 
XNAND3_323 N813 N609 N619 N796 nand 
XNAND4_324 N814 N600 N609 N619 N796 nand 
XNAND4_325 N815 N738 N765 N766 N814 nand 
XNAND3_326 N819 N741 N764 N813 nand 
XNAND2_327 N822 N744 N812 nand 
XNAND3_340 N837 N826 N777 N704 nand 
XNAND4_341 N838 N827 N781 N712 N527 nand 
XNAND4_342 N839 N828 N785 N721 N528 nand 
XNAND2_344 N841 N815 N593 nand 
XNAND3_357 N854 N845 N772 N696 nand 
XNAND3_370 N867 N859 N769 N669 nand 
XNAND3_371 N868 N860 N770 N677 nand 
XNAND3_372 N869 N861 N771 N686 nand 
XOR2_19 N298 N87 N88 or 
XOR2_21 N302 N91 N96 or 
XOR2_23 N304 N101 N106 or 
XOR2_25 N306 N111 N116 or 
XOR2_27 N308 N121 N126 or 
XOR2_37 N325 N159 N165 or 
XOR2_39 N327 N171 N177 or 
XOR2_41 N329 N183 N189 or 
XOR2_43 N331 N195 N201 or 
XOR2_56 N344 N270 N273 or 
XOR2_61 N349 N280 N285 or 
XOR2_62 N350 N280 N286 or 
XOR2_83 N392 N270 N343 or 
XOR2_138 N488 N369 N437 or 
XOR2_139 N489 N369 N437 or 
XOR2_140 N490 N369 N437 or 
XOR2_141 N491 N369 N437 or 
XOR2_145 N499 N130 N460 or 
XOR2_147 N501 N463 N135 or 
XOR2_165 N519 N130 N492 or 
XOR2_167 N521 N495 N207 or 
XOR2_205 N593 N553 N159 or 
XOR2_208 N600 N557 N165 or 
XOR2_211 N609 N561 N171 or 
XOR2_214 N619 N565 N177 or 
XOR2_217 N628 N569 N183 or 
XOR2_220 N635 N573 N189 or 
XOR2_223 N644 N577 N195 or 
XOR2_226 N654 N581 N201 or 
XNOR2_34 N322 N17 N42 nor 
XNOR2_60 N348 N280 N284 nor 
XNOR2_74 N375 N322 N323 nor 
XNOR2_126 N460 N406 N425 nor 
XNOR2_127 N463 N409 N426 nor 
XNOR2_142 N492 N413 N444 nor 
XNOR2_143 N495 N416 N445 nor 
XNOR2_149 N503 N475 N476 nor 
XNOR2_151 N505 N477 N478 nor 
XNOR2_153 N507 N479 N480 nor 
XNOR2_155 N509 N481 N482 nor 
XNOR2_178 N536 N309 N502 nor 
XNOR2_179 N537 N316 N504 nor 
XNOR2_180 N538 N317 N506 nor 
XNOR2_181 N539 N318 N508 nor 
XNOR2_182 N540 N510 N511 nor 
XNOR2_183 N541 N512 N513 nor 
XNOR2_184 N542 N514 N515 nor 
XNOR2_185 N543 N516 N517 nor 
XNOR2_228 N660 N552 N588 nor 
XNOR2_229 N661 N587 N589 nor 
XNOR2_232 N669 N596 N522 nor 
XNOR2_235 N677 N605 N523 nor 
XNOR2_238 N686 N615 N524 nor 
XNOR2_241 N696 N624 N525 nor 
XNOR2_244 N704 N631 N526 nor 
XNOR2_247 N712 N337 N640 nor 
XNOR2_250 N721 N339 N650 nor 
XNOR2_253 N731 N341 N659 nor 
XNOR2_279 N757 N727 N261 nor 
XNOR2_291 N769 N736 N737 nor 
XNOR2_292 N770 N739 N740 nor 
XNOR2_293 N771 N742 N743 nor 
XNOR2_294 N772 N745 N746 nor 
XNOR2_296 N777 N748 N749 nor 
XNOR2_298 N781 N751 N752 nor 
XNOR2_300 N785 N754 N755 nor 
XNOR2_301 N786 N757 N758 nor 
XNOR2_302 N787 N759 N760 nor 
XNOR2_303 N788 N700 N773 nor 
XNOR2_305 N790 N708 N778 nor 
XNOR2_307 N792 N717 N782 nor 
XNOR2_312 N802 N788 N789 nor 
XNOR2_313 N803 N790 N791 nor 
XNOR2_314 N804 N792 N793 nor 
XNOR2_315 N805 N340 N794 nor 
XNOR2_316 N806 N692 N796 nor 
XNOR2_328 N825 N806 N807 nor 
XNOR2_329 N826 N335 N808 nor 
XNOR2_330 N827 N336 N809 nor 
XNOR2_331 N828 N338 N810 nor 
XNOR2_333 N830 N665 N815 nor 
XNOR2_335 N832 N673 N819 nor 
XNOR2_337 N834 N682 N822 nor 
XNOR2_345 N842 N830 N831 nor 
XNOR2_346 N843 N832 N833 nor 
XNOR2_347 N844 N834 N835 nor 
XNOR2_348 N845 N334 N836 nor 
XNOR2_362 N859 N417 N851 nor 
XNOR2_363 N860 N332 N852 nor 
XNOR2_364 N861 N333 N853 nor 
XBUFF1_79 N388 N290 buf 
XBUFF1_80 N389 N291 buf 
XBUFF1_81 N390 N292 buf 
XBUFF1_82 N391 N297 buf 
XBUFF1_104 N418 N342 buf 
XBUFF1_105 N419 N344 buf 
XBUFF1_106 N420 N351 buf 
XBUFF1_107 N421 N353 buf 
XBUFF1_108 N422 N354 buf 
XBUFF1_109 N423 N356 buf 
XBUFF1_120 N446 N392 buf 
XBUFF1_121 N447 N399 buf 
XBUFF1_122 N448 N401 buf 
XBUFF1_123 N449 N402 buf 
XBUFF1_124 N450 N403 buf 
XBUFF1_289 N767 N660 buf 
XBUFF1_290 N768 N661 buf 
XBUFF1_353 N850 N840 buf 
XBUFF1_366 N863 N855 buf 
XBUFF1_367 N864 N856 buf 
XBUFF1_368 N865 N857 buf 
XBUFF1_369 N866 N858 buf 
XBUFF1_377 N874 N870 buf 
XBUFF1_381 N878 N875 buf 
XBUFF1_382 N879 N876 buf 
XBUFF1_383 N880 N877 buf 
XNOT1_29 N310 N268 not 
XNOT1_54 N342 N269 not 
XNOT1_55 N343 N273 not 
XNOT1_57 N345 N276 not 
XNOT1_58 N346 N276 not 
XNOT1_59 N347 N279 not 
XNOT1_63 N351 N293 not 
XNOT1_64 N352 N294 not 
XNOT1_65 N353 N295 not 
XNOT1_66 N354 N296 not 
XNOT1_73 N369 N310 not 
XNOT1_84 N393 N345 not 
XNOT1_85 N399 N346 not 
XNOT1_87 N401 N349 not 
XNOT1_88 N402 N350 not 
XNOT1_89 N403 N355 not 
XNOT1_90 N404 N357 not 
XNOT1_91 N405 N360 not 
XNOT1_93 N407 N363 not 
XNOT1_94 N408 N366 not 
XNOT1_97 N411 N376 not 
XNOT1_98 N412 N379 not 
XNOT1_100 N414 N382 not 
XNOT1_101 N415 N385 not 
XNOT1_110 N424 N400 not 
XNOT1_125 N451 N424 not 
XNOT1_188 N550 N530 not 
XNOT1_189 N551 N533 not 
XNOT1_199 N585 N544 not 
XNOT1_200 N586 N547 not 
XNOT1_230 N662 N590 not 
XNOT1_233 N670 N597 not 
XNOT1_236 N678 N606 not 
XNOT1_239 N687 N616 not 
XNOT1_242 N697 N625 not 
XNOT1_245 N705 N632 not 
XNOT1_248 N713 N641 not 
XNOT1_251 N722 N651 not 
XNOT1_257 N735 N662 not 
XNOT1_260 N738 N670 not 
XNOT1_263 N741 N678 not 
XNOT1_266 N744 N687 not 
XNOT1_269 N747 N697 not 
XNOT1_272 N750 N705 not 
XNOT1_275 N753 N713 not 
XNOT1_278 N756 N722 not 
XNOT1_332 N829 N811 not 
XNOT1_343 N840 N829 not 
XNOT1_349 N846 N837 not 
XNOT1_350 N847 N838 not 
XNOT1_351 N848 N839 not 
XNOT1_358 N855 N846 not 
XNOT1_359 N856 N847 not 
XNOT1_360 N857 N848 not 
XNOT1_361 N858 N849 not 
XNOT1_365 N862 N854 not 
XNOT1_373 N870 N862 not 
XNOT1_374 N871 N867 not 
XNOT1_375 N872 N868 not 
XNOT1_376 N873 N869 not 
XNOT1_378 N875 N871 not 
XNOT1_379 N876 N872 not 
XNOT1_380 N877 N873 not 
.ENDS
